US05068340
3-Hydroxy-5-pentadecylisoxazole
11.12 g of hydroxylamine hydrochloride were added to a solution of 12.60 g of sodium hydroxide in a mixture of 80 ml of water and 100 ml of ethanol, whilst ice-cooling. A solution of the whole of the crude ethyl 3,3-ethylenedioxystearate prepared as described above in 200 ml of ethanol was added all at once, whilst ice-cooling, to the resulting mixture. The reaction mixture was then stirred at room temperature for 2 hours. At the end of this time, 100 ml of concentrated hydrochloric acid were added, and the mixture was heated under reflux for 1.5 hours. The mixture was allowed to cool, and the precipitated solid was collected by filtration and dissolved in methylene chloride. The methylene chloride solution was washed with a saturated aqueous solution of sodium bicarbonate and with water, dried and concentrated by evaporation under reduced pressure. The residue was filtered with the aid of suction to give 7.19 g of the title compound as crystals. An oily material (19 g) separated from the filtration was subjected to column chromatography through 250 g of alumina (grade III). From the fractions eluted with a 20:1 by volume mixture of methanol and acetic acid, an additional 0.82 g of crystals was obtained. These crystals melted at 81.5°-82.5° C. (from cold methylene chloride).

reactant | hydroxylamine hydrochloride | 11.12 g | Cl.NO
reactant | sodium hydroxide | 12.60 g | [OH-].[Na+]
reactant | ethyl 3,3-ethylenedioxystearate | C1OC(CC(=O)OCC)(CCCCCCCCCCCCCCC)OC1 | C22H42O4
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Hydroxy-5-pentadecylisoxazole | 7.19 g | OC1=NOC(=C1)CCCCCCCCCCCCCCC | C18H33NO2
